US05030717
Trifluoracetic anhydride (2.8ml) was added to a solution of 4-aminophenyl acetic acid (1.5 g) and sodium carbonate (1.5 g) in 10 percent aqueous acetonitrile at -10 degrees C. The solution was acidified with 6 Normal HCl (0.2 ml) and was concentrated in vacuo. Filtration through silica with a 9:1 mixture of dichloromethane and methanol provided 1.4 grams (57 percent yield by weight) of p-trifluoroacetamidophenyl acetic acid. Thin layer chromatography on silica gel using a 5:1 mixture of chloroform and methanol as eluant provided an Rf value of 0.35.

reactant | Trifluoracetic anhydride | 2.8ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-aminophenyl acetic acid | 1.5 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | sodium carbonate | 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 0.2 ml | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | p-trifluoroacetamidophenyl acetic acid | 1.4 grams, 57 percent yield | FC(C(=O)NC1=CC=C(C=C1)CC(=O)O)(F)F | C10H8F3NO3
